US06716831B1
2-Chloro-4-(indolin-1-yl)pyrimidine
A solution of 2,4-dichloropyrimidine (596 mg, 4.0 mmol), indoline (0.45 ml, 4.0 mmol) and N,N-diisopropylethylamine (0.69 ml, 4.0 mmol) in n-butanol (20 ml) was heated at 100° C. for 18 hours. Silica (3 g) was added and volatile material was removed by evaporation. The residue was purified by column chromatography, eluting with 0-40% ethyl acetate/isohexane, to give the product as a colourless solid (460 mg, 50%). NMR (CDCl3): 3.2 (t, 2H), 4.0-4.1 (t, 2H), 6.5 (d, 1H), 7.0-7.1 (m, 1H) 7.2-7.3 (m, 2H), 8.2 (m, 1H), 8.3-8.4 (m, 1H); MS (MH+): 232.7.

reactant | 2,4-dichloropyrimidine | 4.0 mmol, 596 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | indoline | 4.0 mmol, 0.45 ml | N1CCC2=CC=CC=C12 | C8H9N
reactant | N,N-diisopropylethylamine | 4.0 mmol, 0.69 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 2-Chloro-4-(indolin-1-yl)pyrimidine | 460 mg, 50% | ClC1=NC=CC(=N1)N1CCC2=CC=CC=C12 | C12H10ClN3
